US06921762B2
Step C: 5-(1-(t-butoxycarbonyl)-1,2,3,6-tetrahydropyrid-4-yl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine
5-(1-(t-Butoxycarbonyl)-1,2,3,6-tetrahydropyrid-4-yl)-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine (0.93 g, 1.7 mmol), (S)-α-methylbenzylamine (0.48 g, 4 mmol), palladium acetate (0.06 g, 0.26 mmol) and racemic BINAP (0.16 g, 0.26 mmol) were combined in toluene (15 ml) and the resulting solution was degassed with nitrogen. Sodium t-butoxide (0.48 g, 5 mmol) was added and the resulting mixture was heated to 90° C. for 1 hour. The mixture was partitioned between sat. ammonium chloride and ethyl acetate. The organic layer was separated, dried over sodium sulfate, filtered and concentrated to a syrup. The residue was purified by column chromatography on silica gel (30% ethyl acetate in hexane) gave the product as a syrup; MS m/z (M+H)+ 642.4; C35H34F3N7O2 require 641.3.

reactant | 5-(1-(t-Butoxycarbonyl)-1,2,3,6-tetrahydropyrid-4-yl)-7-(2-chloro-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | 1.7 mmol, 0.93 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)Cl | C27H24ClF3N6O2
reactant | (S)-α-methylbenzylamine | 4 mmol, 0.48 g | C[C@@H](C1=CC=CC=C1)N | C8H11N
reactant | BINAP | 0.26 mmol, 0.16 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Sodium t-butoxide | 5 mmol, 0.48 g | CC(C)([O-])C.[Na+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.26 mmol, 0.06 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(1-(t-butoxycarbonyl)-1,2,3,6-tetrahydropyrid-4-yl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)N[C@@H](C)C2=CC=CC=C2 | C35H34F3N7O2
